US06660744B1
n-Butyl lithium (1.6 M in hexane solution, 5.1 ml, 8.16 mmol) was added slowly to a solution of N1-phenyl-4-bromo-2-methoxybenzamide (1.0 g, 3.26 mmol) in tetrahydrofuran (25 mL) at −78° C. After 30 minutes, triisopropyl borate (1.13 mL, 4.90 mmol) was added rapidly. The reaction mixture was allowed to warm up to room temperature after 15 minutes and stirred at room temperature for 16 hours. Hydrochloric acid (2.5N, 18 mL) was added and the mixture was stirred for 5 h hours. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, dried over MgSO4, filtered and concentrated. The residue was re-crystallized from ethyl acetate/heptane to give 4-(anilinocarbonyl)-3-methoxyphenylboronic acid (0.549 g, 62%). 1H NMR (DMSO-d6) δ 3.91 (s, 3H), 7.08 (m, 1H), 7.33 (m, 2H), 7.47 (d, J=7.57 Hz, 1H), 7.59 (m, 2H), 7.73 (d, J=7.36 Hz, 2H), 8.24 (s, 2H), 10.10 (s, 1H).

reactant | n-Butyl lithium | 8.16 mmol, 1.6 M, 5.1 ml | C(CCC)[Li]
reactant | N1-phenyl-4-bromo-2-methoxybenzamide | 3.26 mmol, 1.0 g | C1(=CC=CC=C1)NC(C1=C(C=C(C=C1)Br)OC)=O | C14H12BrNO2
reactant | triisopropyl borate | 4.90 mmol, 1.13 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | Hydrochloric acid | 2.5N, 18 mL | Cl | ClH
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-(anilinocarbonyl)-3-methoxyphenylboronic acid | 0.549 g, 62% | N(C1=CC=CC=C1)C(=O)C1=C(C=C(C=C1)B(O)O)OC | C14H14BNO4
